Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Fever
 
Major Surgical or Invasive Procedure:
None. 

 
History of Present Illness:
 ___ man w/ a history of total bladder, prostate, 
adjacent muscle removal in ___ for bladder cancer (at 
___), with urostomy in place, HTN and NIDDM presents for 
evaluation of generalized fatigue, foul smell from the urostomy 
and fever to ___ today.  
 Patient reportedly had surgical cure and has not had chemo or 
radiation. He was in ___ this ___ golfing and returned 5 
days ago. He has been increasingly fatigued over the last 2 
weeks, with increasingly foul smell from the urostomy. He was 
feeling very lousy yesterday and laying in bed most of the day, 
which is quite atypical for him. Today he had a fever to 102 
Fahrenheit at home. He called his urologist and was sent to the 
emergency room for evaluation, including evaluation by the 
urology team. He is a patient of Dr ___ at ___ ___. 
He was sent over by Dr. ___, and was told to ask to 
see the urology team on arrival.  
 - In the ED, initial vitals were: 98.2 99 141/73 18 99% RA
 
Past Medical History:
- total bladder, prostate, adjacent muscle removal in ___ for bladder cancer, with urostomy in place
 - agent orange exposure
 - frequent UTI ___ to agent orange exposure leading to bladder 
dysfunction and previously had to straight cath prior to 
urostomy
 - hypertension  
 - dyslipidemia  
 - diabetes on oral medication  
 
Social History:
___
Family History:
No bladder cancer history that they know of; however, both 
parents died of cancer ___ unknown primary. 
 
Physical Exam:
ADMISSON PHYSICAL EXAM
#ERROR!
 Vital Signs: 98.2 PO 162 / 70R Lying 49 18 96 RA  
 General: Alert, oriented, no acute distress, generally very tan 
appearing  
 HEENT: Sclerae anicteric, MMM, oropharynx clear, EOMI, PERRL.  
 Neck: Supple.  
 CV: Regular rate and rhythm. Normal S1+S2, no murmurs, rubs, 
gallops.  
 Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
 Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding, ostomy site c/d/I, pink 
underneath, draining yellow urine  
 Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
 Neuro: CNII-XII intact, ___ strength upper/lower extremities, 
grossly normal sensation, 2+ reflexes bilaterally, gait 
deferred. 

DISCHARGE EXAM
#ERROR!
 Vital Signs: 97.8 PO 153 / 83 L Lying 87 20 96 RA 
 General: Alert, oriented, no acute distress, pleasant, 
coversant
 HEENT: Sclerae anicteric, MMM, oropharynx clear.  
 Neck: Supple.  
 CV: Regular rate and rhythm. Normal S1+S2, no murmurs, rubs, 
gallops.  
 Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
 Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding, ostomy site c/d/I, pink 
underneath, draining yellow urine, no surrounding erythema  
 Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
 Neuro: CNII-XII intact, ___ strength upper/lower extremities, 
grossly normal sensation, gait deferred.  
 
Pertinent Results:
ADMISSION LABS
#ERROR!
___ 03:25PM BLOOD WBC-11.1* RBC-4.22* Hgb-11.1* Hct-35.0* 
MCV-83 MCH-26.3 MCHC-31.7* RDW-14.8 RDWSD-44.3 Plt ___
___ 03:25PM BLOOD Neuts-84.6* Lymphs-7.1* Monos-6.9 
Eos-0.4* Baso-0.4 Im ___ AbsNeut-9.37* AbsLymp-0.78* 
AbsMono-0.76 AbsEos-0.04 AbsBaso-0.04
___ 03:25PM BLOOD Plt ___
___ 06:10AM BLOOD ___ PTT-28.1 ___
___ 03:25PM BLOOD Glucose-211* UreaN-32* Creat-1.5* Na-137 
K-4.8 Cl-100 HCO3-20* AnGap-22*
___ 06:10AM BLOOD Calcium-8.3* Phos-2.8 Mg-1.7

MICROBIOLOGY:
___ 3:25 pm URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      ESCHERICHIA COLI.    >100,000 CFU/mL.  PRESUMPTIVE 
IDENTIFICATION. 
         Ertapenem Sensitivity testing per ___ (___) 
___. 
         Ertapenem sensitivity testing performed by ___. 

         Ertapenem = SUSUCEPTIBLE. 
      BETA STREPTOCOCCUS GROUP B.    10,000-100,000 CFU/mL. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             ESCHERICHIA COLI
                             |   
AMPICILLIN------------  =>32 R
AMPICILLIN/SULBACTAM--    16 I
CEFAZOLIN-------------  =>64 R
CEFEPIME--------------  =>64 R
CEFTAZIDIME-----------    16 R
CEFTRIAXONE-----------  =>64 R
CIPROFLOXACIN---------   =>4 R
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
NITROFURANTOIN--------  <=16 S
PIPERACILLIN/TAZO-----   <=4 S
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----  =>16 R

IMAGING
-------
CT ABD/PELVIS:  
IMPRESSION: 
  
1. There is no acute abnormality visualized within the imaged 
portion of the abdomen and pelvis. 
2. Post surgical changes related to bladder and prostate removal 
and 
ureterostomy are noted.  Left-sided moderate 
hydroureteronephrosis, the acuity of which is uncertain in this 
postoperative state.  No asymmetric perinephric stranding or 
adjacent fluid collection.  No obstructing renal calculus. 
3. Lucent lesion within the L4 vertebral body which is possibly 
but not 
definitively a hemangioma.  Correlation with prior imaging 
presumed performed elsewhere suggested otherwise MRI on a 
nonurgent basis would be suggested. 
4. Abnormal left pelvic sidewall soft tissue, potentially an 
metastatic lymph node.  Additional borderline enlarged right 
common iliac lymph node to be correlated with prior imaging. 

DISCHARGE LABS
--------------
___ 06:25AM BLOOD WBC-6.8 RBC-4.07* Hgb-10.5* Hct-33.8* 
MCV-83 MCH-25.8* MCHC-31.1* RDW-14.4 RDWSD-43.6 Plt ___
___ 06:25AM BLOOD Plt ___
___ 06:25AM BLOOD Glucose-240* UreaN-24* Creat-1.3* Na-137 
K-3.8 Cl-101 HCO3-23 AnGap-17
___ 06:25AM BLOOD Calcium-8.7 Phos-2.6* Mg-2.___ man w/ a history of total bladder, prostate, 
adjacent muscle removal in ___ for bladder cancer (at 
___), with urostomy in place, HTN and NIDDM presents with 
fever and fatigue and found to have MDR E. Coli UTI, treated 
initially with meropenem and treated with ertapenem as an 
outpatient. 

ACTIVE ISSUES:
-------------- 
 # Complicated UTI- Pt presents with fever (temp of 102), mild 
lower quadrant pain, vomiting with UA with many WBCs and 
bacteria. Urine culture grew out MDR E. Coli sensitive to 
carbapenems. There was no e/o pyelonephritis, no perinephric 
stranding or adjacent fluid collection and no obstructing renal 
calculus seen on CTA. Hydroureter was seen on CT and per 
urology, there is nothing to do and to follow up as outpatient. 
Patient was treated with meropenem (___) and will be 
discharged on ertapenem for a ___nding on ___. 
Blood cultures were negative.

 # hx of bladder cancer- s/p total bladder, prostate, adjacent 
muscle removal in ___ for bladder cancer and has 
urostomy. Abd/pelvis CT from ___ shows abnormal left pelvic 
sidewall soft tissue, potentially an metastatic lymph node and 
additional borderline enlarged right common iliac lymph node to 
be correlated with prior imaging. He never received 
chemotherapy/radiation. He will have outpatient follow up with 
the ___ clinic.

#Acute Kidney Injury: Patient came in with Cr of 1.5 that 
improved with fluids. Per OSH records, baseline appears to be 
~1.0-1.2. Discharge Cr was 1.3.

TRANSITIONAL ISSUES
-------------------
[] Abnormal lymph nodes on CT: Patient will need to see Dr. ___ 
___ in the ___ clinic after being treated for 
his urinary tract infection. 
[] New Medications:
Ertapenem 1 g daily from ___ to ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Losartan Potassium 75 mg PO DAILY 
2. GlipiZIDE 20 mg PO DAILY 
3. Atorvastatin 40 mg PO QPM 
4. MetFORMIN (Glucophage) 1000 mg PO DAILY 
5. amLODIPine 5 mg PO DAILY 

 
Discharge Medications:
1.  Ertapenem Sodium 1 g IV 1X Duration: 1 Dose 
RX *ertapenem [___] 1 gram 1 g IV daily Disp #*8 Vial 
Refills:*0 
2.  amLODIPine 5 mg PO DAILY  
3.  Atorvastatin 40 mg PO QPM  
4.  GlipiZIDE 20 mg PO DAILY  
5.  Losartan Potassium 75 mg PO DAILY  
6.  MetFORMIN (Glucophage) 1000 mg PO DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
#ERROR!
Urinary Tract Infection

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you at ___.

You were admitted to the hospital because you were having 
fevers, chills, and belly pain. This was because you had a 
urinary tract infection. We gave you antibiotics through your IV 
and you improved. 

When you leave the hospital, please continue to take your 
antibiotics every day even if you feel better. You also need to 
follow up with your primary care doctor and urologist when you 
leave the hospital.

We wish you the best,
Your care team at ___
 
Followup Instructions:
___